US08980877B2
A suspension of (±)-(E)-3-{1′-benzyl-3,4-dihydro-4-oxo-spiro[2H-(1,3)-benzoxazine-2,3′-piperidin]-6-yl}-acrylic acid (230 mg, 0.55 mmol) in DCM (6 ml) was treated with TEA (0.12 ml, 0.90 mmol) and then with EDC (172 mg, 0.900 mmol), HOBt (121 mg, 0.896 mmol) and NH2OTHP (84 mg, 0.72 mmol) following the procedure described in Example 30, Step B, giving (±)-(E)-3-{1′-benzyl-3,4-dihydro-4-oxo-spiro[2H-(1,3)-benzoxazine-2,3′-piperidin]-6-yl}-N-(tetrahydro-pyran-2-yloxy)-acrylamide (120 mg) as a light yellow solid.

reactant | (±)-(E)-3-{1′-benzyl-3,4-dihydro-4-oxo-spiro[2H-(1,3)-benzoxazine-2,3′-piperidin]-6-yl}-acrylic acid | 0.55 mmol, 230 mg | C(C1=CC=CC=C1)N1CC2(CCC1)OC1=C(C(N2)=O)C=C(C=C1)/C=C/C(=O)O | C22H22N2O4
reactant | EDC | 0.900 mmol, 172 mg
reactant | HOBt | 0.896 mmol, 121 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | NH2OTHP | 0.72 mmol, 84 mg | NOC1OCCCC1 | C5H11NO2
solvent | DCM | 6 ml | C(Cl)Cl | CH2Cl2
product | (±)-(E)-3-{1′-benzyl-3,4-dihydro-4-oxo-spiro[2H-(1,3)-benzoxazine-2,3′-piperidin]-6-yl}-N-(tetrahydro-pyran-2-yloxy)-acrylamide | 120 mg | C(C1=CC=CC=C1)N1CC2(CCC1)OC1=C(C(N2)=O)C=C(C=C1)/C=C/C(=O)NOC1OCCCC1 | C27H31N3O5
